US06284894B1
To a solution of t-butylnitrite (535 μl, 4.5 mmol) and allyl bromide (3.9 ml, 45.0 mmol) in CH3CN (3 ml), 2-chloro-4-nitroaniline (518 mg, 3.0 mmol) was added during 20 minutes, while maintaining the temperature of the reaction mixture at 11-13° C. At the end of the addition of the aniline, extra t-butylnitrite (180 μl, 1.5 mmol) was added to the reaction mixture which then was stirred at 23° C. for one hour. The volatile material in the reaction mixture was then removed at reduced pressure. Column chromatography (heptane-ethyl acetate 97:3) gave 497 mg (84%) allyl-2-chloro-4-nitrobenzene as a light yellow oil containing 5% of 2-chloro-4-nitrobromobenzene. This corresponds to 79% yield of allyl-2-chloro-4-nitrobenzene. 1H NMR (CDCl3, 400 MHz) δ 8.25, (d, 1H, J=2.4 Hz), 8.08, (dd, 1H, J=8.5, 2.3 Hz), 7.42, (d, 1H, J=8.5 Hz), 6.01-5.89, (m, 1H), 5.23-5.10, (m, 2H), 3.59, (d, 2H, J=6.5 Hz); 13C NMR (CDCl3, 100 MHz) δ 147.3, 145.9, 135.3, 134.0, 131.2, 125.0, 122.2, 118.5, 38.0; Anal HRMS Calcd. for C9H8ClNO2 (M): 197.0244. Found: 197.0247.

reactant | t-butylnitrite | 4.5 mmol, 535 μl | C(C)(C)(C)ON=O | C4H9NO2
reactant | allyl bromide | 45.0 mmol, 3.9 ml | C(C=C)Br | C3H5Br
reactant | 2-chloro-4-nitroaniline | 3.0 mmol, 518 mg | ClC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | t-butylnitrite | 1.5 mmol, 180 μl | C(C)(C)(C)ON=O | C4H9NO2
solvent | CH3CN | 3 ml | CC#N | C2H3N
product | allyl-2-chloro-4-nitrobenzene | 497 mg, 84% | C(C=C)C1=C(C=C(C=C1)[N+](=O)[O-])Cl | C9H8ClNO2
